US07737166B2
N-(5-Cyano-2-fluoro-4-hydroxy-6-methylbiphenyl-3-yl)-2,2-dimethylpropionamide (I-238)
N-(5-Cyano-2-fluoro-4-methoxy-6-methylbiphenyl-3-yl)-2,2-dimethylpropionamide (I-237) (200 mg, 0.59 mmol) was dissolved in dichloromethane (5 ml), and under nitrogen atmosphere at −78° C., 1 M borondichloromethane tribromide solution (1.76 ml, 1.76 mmol) was dropwise added. With stirring, the solution was heated up to 0° C., taking 3 hours. At the same temperature, water with ice was gradually dropwise added to it, followed by stirring for 5 minutes. Further, an aqueous saturated sodium hydrogencarbonate solution was added to the solution to make pH=7. The solution was extracted twice with dichloromethane. The organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, hexane:ethyl acetate=4:1) to obtain the entitled compound (125 mg, 65%) as a white solid.

reactant | N-(5-Cyano-2-fluoro-4-methoxy-6-methylbiphenyl-3-yl)-2,2-dimethylpropionamide | 0.59 mmol, 200 mg | C(#N)C=1C(=C(C(=C(C1C)C1=CC=CC=C1)F)NC(C(C)(C)C)=O)OC | C20H21FN2O2
reactant | water | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(5-Cyano-2-fluoro-4-hydroxy-6-methylbiphenyl-3-yl)-2,2-dimethylpropionamide | 125 mg, 65% | C(#N)C=1C(=C(C(=C(C1C)C1=CC=CC=C1)F)NC(C(C)(C)C)=O)O | C19H19FN2O2
